US06787019B2
1B. Synthesis of Methanesulfonyl Chloride-aluminum Trichloride-sodium Chloride
A room temperature ionic solution was prepared by initially adding methanesulfonyl chloride (458.4 g, 4.0 mole) to a flask same as described above. Aluminum trichloride (746.8 g, 5.6 mole) was added over a three hour period, keeping the temperature below 50° C. The solution was then heated to 60° C. and sodium chloride (93.6 g, 1.6 mole) was added over 0.5 hour, keeping the temperature below 70° C. The reaction was cooled to room temperature to give a clear green solution.

reactant | methanesulfonyl chloride | 4.0 mole, 458.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Aluminum trichloride | 5.6 mole, 746.8 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | sodium chloride | 1.6 mole, 93.6 g | [Cl-].[Na+]
product | Methanesulfonyl Chloride aluminum Trichloride sodium Chloride | CS(=O)(=O)Cl.[Cl-].[Cl-].[Cl-].[Al+3].[Cl-].[Na+] | InChI=1S/CH3ClO2S.Al.4ClH.Na/c1-5(2,3)4;;;;;;/h1H3;;4*1H;/q;+3;;;;;+1/p-4
